US07846963B2
Preparation of 3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-N-pyridin-2-yl-propionamide (g1)
Pyridyl amine was added to organic solvent dissolving of 3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid (0.12 mmol) in EDC. The resulting compound was purified by Silica gel column chromatography with methanol/chloroform (1:20) solvent mixture as an eluant to give 16 mg of the title compound (g1) (yield: 39%).

reactant | Pyridyl amine | N1=C(C=CC=C1)N | C5H6N2
reactant | 3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-propionic acid | 0.12 mmol | C(C1=CC=CC=C1)N1C(C(=CCC1)CCC(=O)O)=O | C15H17NO3
solvent | EDC
product | 3-(1-benzyl-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl)-N-pyridin-2-yl-propionamide | 16 mg, yield: 39% | C(C1=CC=CC=C1)N1C(C(=CCC1)CCC(=O)NC1=NC=CC=C1)=O | C20H21N3O2
